US05030627
0.6 g of NaBH4 was added to a solution of 6 g of 19-methylthioandrost-4-ene-3,17-dione in a mixture of 25 ml of THF and 25 ml of methanol. After 1/2 hour, 2 ml of acetone, followed by 5 ml of 50% acetic acid were added. After stirring for 1/2 hour, the mixture was poured out into 200 ml of 5% NaHCO3 solution. Subsequently, the product was extracted with CH2Cl2. After washing, drying and evaporating down the organic layer, the residue obtained was chromatographed using silica gel. In this manner, 4.8 g of 19-methylthioandrost-4-ene-3α,17β-diol were obtained, melting point 85°-87° C., (Rf =0.23 (toluene/ethyl acetate 7:3).

reactant | NaBH4 | 0.6 g | [BH4-].[Na+]
reactant | 19-methylthioandrost-4-ene-3,17-dione | 6 g | CSC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C20H28O2S
reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 19-methylthioandrost-4-ene-3α,17β-diol | 4.8 g | CSC[C@]12CC[C@H](C=C1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O | C20H32O2S
